US05064833
2-Chloro-4-(2-methylphenylamino)quinazoline (2.7 g, 0.01 mol) and benzylamine (2.4 g, 0.022 mol) were dissolved in n-butanol (20 ml) and heated under reflux for 5 hours. The solution was cooled, excess solvent removed in vacuo and the residue treated with water, filtered and crystallised from ethanol/water. The compound was then chromatographed (silica gel, 0.5% methanolic ammonia/chloroform) to afford an oil, which on trituration with ether gave crystals of 2-benzylamino-4-(2-methylphenylamino)quinazoline (1.88 g, 55%), m.p. 127°-130°.

reactant | 2-Chloro-4-(2-methylphenylamino)quinazoline | 0.01 mol, 2.7 g | ClC1=NC2=CC=CC=C2C(=N1)NC1=C(C=CC=C1)C | C15H12ClN3
reactant | benzylamine | 0.022 mol, 2.4 g | C(C1=CC=CC=C1)N | C7H9N
solvent | n-butanol | 20 ml | C(CCC)O | C4H10O
product | 2-benzylamino-4-(2-methylphenylamino)quinazoline | 1.88 g, 55% | C(C1=CC=CC=C1)NC1=NC2=CC=CC=C2C(=N1)NC1=C(C=CC=C1)C | C22H20N4
